US08314098B2
(Step 2): 5-Chloro-2-(3-chloro-phenyl)-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine
There was dissolved, in 1,4-dioxane (5 mL), 5,7-dichloro-2-(3-chlorophenyl)-pyrazolo[1,5-a]pyrimidine (200 mg, 0.670 mM), then morpholine (117 μL, 1.34 mM) was added to the solution and the mixture was stirred at room temperature for 30 minutes. The solvent was distilled off from the reaction mixture, the resulting residue was diluted with water and then extracted with methylene chloride. The extracts thus obtained were combined together and dried over anhydrous sodium sulfate, then the solvent was distilled off and the resulting solid was washed with methanol to give the title compound (222 mg, yield: 94%).

reactant | 5,7-dichloro-2-(3-chlorophenyl)-pyrazolo[1,5-a]pyrimidine | 0.670 mM, 200 mg | ClC1=NC=2N(C(=C1)Cl)N=C(C2)C2=CC(=CC=C2)Cl | C12H6Cl3N3
reactant | morpholine | 1.34 mM, 117 μL | N1CCOCC1 | C4H9NO
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 5-Chloro-2-(3-chloro-phenyl)-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine | 222 mg, yield: 94% | ClC1=NC=2N(C(=C1)N1CCOCC1)N=C(C2)C2=CC(=CC=C2)Cl | C16H14Cl2N4O
